US06498172B1
(3-{[(4-Thiazol-2-yl-benzyl)-(thiophene-2-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
To a solution of {3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester (87.3 mg, 0.213 mmol), prepared in Step A of Example 13i, triethylamine (47.3 mg, 0.234 mmol) and dichloroethane (10 mL) was added thiophene-2-sulfonyl chloride (42.7 mg, 0.234 mmol). The reaction was stirred for 24 h and additional triethylamine (0.234 mmol) and thiophene-2-sulfonyl chloride (42.7 mg, 0.234 mmol) were added. The reaction was stirred for an additional 24 h. The organic solution was washed sequentially with 5.5% HCl, water, saturated sodium bicarbonate solution, and brine. The organic solution was dried (MgSO4), filtered, and concentrated. Flash chromatography (CHCl3:MeOH 99:1) provided the title compound of Step A (63 mg). MS 556 (M+1)

reactant | {3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | 0.213 mmol, 87.3 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1SC=CN1)=O | C23H26N2O3S
reactant | triethylamine | 0.234 mmol, 47.3 mg | C(C)N(CC)CC | C6H15N
reactant | thiophene-2-sulfonyl chloride | 0.234 mmol, 42.7 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | triethylamine | 0.234 mmol | C(C)N(CC)CC | C6H15N
reactant | thiophene-2-sulfonyl chloride | 0.234 mmol, 42.7 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | (3-{[(4-Thiazol-2-yl-benzyl)-(thiophene-2-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | 63 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C=1SC=CC1)CC1=CC=C(C=C1)C=1SC=CN1)=O | C27H28N2O5S3
